US07160870B2
c) 2′-methoxy-3′-nitrobiphenyl-3-carboxylic acid;
Following the procedure of Example 1b), except substituting the compound from Example 2b) for 5-bromo-2-nitrophenol and substituting 3-carboxyphenylboronic acid for 4-carboxyphenylboronic acid, the title compound was prepared (2.13 g; 47%) as a tan powder. 1H NMR (300 MHz, d6-DMSO) δ 8.12 (s, 1H), 8.03 (d, J=7.9 Hz, 1H), 7.94 (dd, J=7.9 Hz, 1.5 Hz, 1H), 7.85 (d, J=7.9 Hz, 1H), 7.76 (dd, J=7.5, 1.5 Hz, 1H), 7.66 (t, J=7.5 Hz, 1H), 7.46 (t, j=7.9 Hz, 1H), 3.46 (s, 3H).

reactant | 5-bromo-2-nitrophenol | BrC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | 3-carboxyphenylboronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
product | 2′-methoxy-3′-nitrobiphenyl-3-carboxylic acid | COC1=C(C=CC=C1[N+](=O)[O-])C1=CC(=CC=C1)C(=O)O | C14H11NO5
